US07253286B2
N-(4-(6-Cyano-7-(4-(dimethylamino)butoxy)-4-quinolyl)oxyphenyl)-N′-(4-methoxyphenyl)urea
N-(4-(6-Cyano-7-(4-chlorobutoxy)-4-quinolyl)oxyphenyl-N′-(4-methoxyphenyl)urea (120 mg) was dissolved in dimethylformamide (3 ml), and then a 50% dimethylamine solution (93 μl) was added and the mixture was heated and stirred at 70° C. for 5 hours. The reaction solution was poured into saturated brine and extracted with ethyl acetate, and the organic layer was dried over magnesium sulfate and concentrated. The residue was passed through NH silica gel (Fuji Silysia Chemical) and eluted with a solvent (ethyl acetate), and then further eluted with another solvent (ethyl acetate:methanol=10:1) and concentrated. The obtained solid was passed through Merck Silica Gel using tetrahydrofuran, and after eluting the insoluble portion with tetrahydrofuran and ethyl acetate, it was further eluted with solvents (tetrahydrofuran:methanol:triethylamine=10:1:1, ethyl acetate:methanol:triethylamine=10:1:1) and concentrated to obtain 10 mg of the title compound as a solid.

reactant | 4-(6-Cyano-7-(4-chlorobutoxy)-4-quinolyl)oxyphenyl-N′-(4-methoxyphenyl)urea | 120 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OCCCCCl)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC | C28H25ClN4O4
reactant | dimethylamine | 93 μl | CNC | C2H7N
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | N-(4-(6-Cyano-7-(4-(dimethylamino)butoxy)-4-quinolyl)oxyphenyl)-N′-(4-methoxyphenyl)urea | 10 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OCCCCN(C)C)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC | C30H31N5O4
